US07470710B2
Description 43: (RS)-Morpholin-3-yl-acetic acid ethyl ester
N-chloromorpholine (24 g) in diethyl ether (20 ml) was added drop-wise over 2.5 h to a vigorously stirred solution of potassium hydroxide (22.1 g, 0.37 mol) in ethanol (130 ml) at 90° C. Heating was continued at 80° C. for 2 h. After standing at room temperature for 48 h the mixture was filtered to remove the inorganics and the solvent removed from the filtrate in vacuo. The residue was partitioned between diethyl ether and brine, dried (Na2SO4) and the solvent removed in vacuo. The resulting brown oil was dissolved in acetonitrile (100 ml). Triethylamine (25 ml) and monoethyl malonate (25 g) were added and the mixture heated at 16° C. for 16 h. The volatiles were removed in vacuo and the residue partitioned between saturated aqueous potassium carbonate and diethyl ether. The organic phase was dried (Na2SO4) and the solvent removed in vacuo to afford the title compound as a brown oil (3.5 g).

reactant | N-chloromorpholine | 24 g | ClN1CCOCC1 | C4H8ClNO
reactant | potassium hydroxide | 0.37 mol, 22.1 g | [OH-].[K+]
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | (RS)-Morpholin-3-yl-acetic acid ethyl ester | 3.5 g | C(C)OC(CC1NCCOC1)=O | C8H15NO3
